US08202857B2
A mixture of (S)-1-((S)-1-(4-bromophenyl)ethyl)-4-(2-methylallyl)-4-phenyl-1,3-diazepan-2-one (450 mg, 1.01 mmol), bis(pinacolato)diboron (335 mg, 1.3 equiv.), potassium acetate (317 mg, 3.2 equiv.), and Pd(dppf)Cl2CH2Cl2 (27 mg, 0.033 equiv.) were mixed with dry DMSO (8 mL). The mixture was vacuumed and refilled with Nitrogen gas (3×), before being heated to 90° C. overnight. After being cooled down, the mixture was diluted with EtOAc (50 mL) and washed with water (15 mL). The aqueous layer was extracted with EtOAc (10 mL). The combined organic layers were washed by water (10 mL), brine (10 mL), dried over Na2SO4. After filtration and concentration, the residue was purified by chromatography on a 12-g silica gel cartridge, eluted with a 5-30% EtOAc in hexanes gradient, to afford (S)-4-(2-methylallyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-diazepan-2-one (416.7 mg, 83%). LC-MS Method 1 tR=2.39 min., m/z 475(M+1).

reactant | (S)-1-((S)-1-(4-bromophenyl)ethyl)-4-(2-methylallyl)-4-phenyl-1,3-diazepan-2-one | 1.01 mmol, 450 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(N[C@](CCC1)(C1=CC=CC=C1)CC(=C)C)=O | C23H27BrN2O
reactant | bis(pinacolato)diboron | 335 mg, 1.3 equiv. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 317 mg, 3.2 equiv. | C(C)(=O)[O-].[K+]
reactant | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (S)-4-(2-methylallyl)-4-phenyl-1-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-diazepan-2-one | 416.7 mg, 83% | CC(C[C@]1(NC(N(CCC1)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)=C | C29H39BN2O3
